### PR TITLE
[Merged by Bors] - chore(Topology/Maps): small clean-ups

### PR DESCRIPTION
**Pull request by grunweg**
- Make sure each new definition is in a separate section.
- Add corresponding namespaces where missing.
- Collect `TopologicalSpace` assumptions.
- Collect variables $\{f : \alpha \to \beta\}$ and $\{g : \beta \to \gamma\}$ in theorems; we leave definitions alone.
- In a later PR, we will rename the type variables in this file: this reduces the diff in doing so.

---

Each commit can be reviewed separately. Noticed while working on #9247.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Maps.lean [hunk 1]
```diff
@@ -542,29 +537,30 @@ theorem isClosedMap_iff_closure_image [TopologicalSpace α] [TopologicalSpace β
...
   exact f_closed.closure_image_eq_of_continuous f_cont s
 
-theorem IsClosedMap.mapClusterPt_iff_lift'_closure [TopologicalSpace α] [TopologicalSpace β]
-    {F : Filter α} {f : α → β} (f_closed : IsClosedMap f) (f_cont : Continuous f) {y : β} :
+theorem IsClosedMap.mapClusterPt_iff_lift'_closure
+    {F : Filter α} (f_closed : IsClosedMap f) (f_cont : Continuous f) {y : β} :
     MapClusterPt y F f ↔ ((F.lift' closure) ⊓ 𝓟 (f ⁻¹' {y})).NeBot := by
   rw [MapClusterPt, clusterPt_iff_lift'_closure', f_closed.lift'_closure_map_eq f_cont,
       ← comap_principal, ← map_neBot_iff f, Filter.push_pull, principal_singleton]
+end IsClosedMap
```
Comment (jcommelin) [inline Mathlib/Topology/Maps.lean:563]:
```suggestion

end IsClosedMap
```

File: Mathlib/Topology/Maps.lean [hunk 2]
```diff
@@ -332,22 +332,23 @@ protected theorem isClosed_preimage (hf : QuotientMap f) {s : Set β} :
   ((quotientMap_iff_closed.1 hf).2 s).symm
 #align quotient_map.is_closed_preimage QuotientMap.isClosed_preimage
 
+end QuotientMap
 end QuotientMap
 
+section OpenMap
```
Comment (jcommelin) [inline Mathlib/Topology/Maps.lean:338]:
```suggestion
section OpenMap

```

File: Mathlib/Topology/Maps.lean [hunk 3]
```diff
@@ -332,22 +332,23 @@ protected theorem isClosed_preimage (hf : QuotientMap f) {s : Set β} :
...
 is open in `β`. -/
 def IsOpenMap [TopologicalSpace α] [TopologicalSpace β] (f : α → β) :=
   ∀ U : Set α, IsOpen U → IsOpen (f '' U)
 #align is_open_map IsOpenMap
 
-namespace IsOpenMap
-
 variable [TopologicalSpace α] [TopologicalSpace β] [TopologicalSpace γ] {f : α → β}
 
+namespace IsOpenMap
```
Comment (jcommelin) [inline Mathlib/Topology/Maps.lean:347]:
```suggestion
namespace IsOpenMap

```

File: Mathlib/Topology/Maps.lean [hunk 4]
```diff
@@ -458,78 +457,74 @@ theorem isOpenMap_iff_interior [TopologicalSpace α] [TopologicalSpace β] {f :
 #align is_open_map_iff_interior isOpenMap_iff_interior
 
 /-- An inducing map with an open range is an open map. -/
-protected theorem Inducing.isOpenMap [TopologicalSpace α] [TopologicalSpace β] {f : α → β}
-    (hi : Inducing f) (ho : IsOpen (range f)) : IsOpenMap f :=
+protected theorem Inducing.isOpenMap (hi : Inducing f) (ho : IsOpen (range f)) : IsOpenMap f :=
   IsOpenMap.of_nhds_le fun _ => (hi.map_nhds_of_mem _ <| IsOpen.mem_nhds ho <| mem_range_self _).ge
 #align inducing.is_open_map Inducing.isOpenMap
+end OpenMap
```
Comment (jcommelin) [inline Mathlib/Topology/Maps.lean:463]:
```suggestion

end OpenMap
```

File: Mathlib/Topology/Maps.lean [hunk 5]
```diff
@@ -649,23 +647,23 @@ theorem openEmbedding_id : OpenEmbedding (@id α) :=
   ⟨embedding_id, IsOpenMap.id.isOpen_range⟩
 #align open_embedding_id openEmbedding_id
 
-protected theorem OpenEmbedding.comp {g : β → γ} {f : α → β} (hg : OpenEmbedding g)
+protected theorem OpenEmbedding.comp (hg : OpenEmbedding g)
```
Comment (jcommelin) [inline Mathlib/Topology/Maps.lean:650]: Looks like the next few decls could also be organized in a `namespace OpenEmbedding` so that we can drop the `OpenEmbbeding` from all their names.

File: Mathlib/Topology/Maps.lean [hunk 6]
```diff
@@ -684,7 +682,7 @@ structure ClosedEmbedding (f : α → β) extends Embedding f : Prop where
 #align closed_embedding ClosedEmbedding
 #align closed_embedding_iff closedEmbedding_iff
 
-variable {f : α → β}
+variable {f : α → β} {g : β → γ}
 
 theorem ClosedEmbedding.tendsto_nhds_iff {ι : Type*} {g : ι → α} {a : Filter ι} {b : α}
```
Comment (jcommelin) [inline Mathlib/Topology/Maps.lean:687]: And similarly here, for `ClosedEmbedding`.

File: Mathlib/Topology/Maps.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Topology/Maps.lean]: There are only four such lemmas right now, so I wasn't sure if that would pull their weight. It doesn't seem to hurt either - changed.

**Comment by grunweg** [comment]
Thanks for the review. I have addressed all comments.
awaiting-review

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
